US09062060B2
To a solution of 3,6-Dimethyl-2-pyridinamine (2.00 g; 16.4 mmol) in 50 mL of DCM was added dropwise a solution of hydroxylamine-2,4,6-Trimethyl-benzenesulfonate (4.22 g, 19.6 mmol) in 50 mL at CH2Cl2 at 0° C., and the mixture was stirred and allowed to warm to room temperature. The solvents were evaporated and the residue dissolved in 80 mL of MeOH then treated with DBU (3.43 mL, 22.9 mmol) and the solution stirred for 5 mins. After chloroacetic acid methyl ester (1.44 mL, 16.4 mmol) was added, the resultant mixture was stirred at room temperature for 48 h. After being concentrated under reduce pressure, the residue was diluted with water (100 mL) and extracted with EtOAc (3×100 mL). The combined organic layers were washed with water (50 mL), brine (50 mL), dried over MgSO4, filtered, and concentrated under vacuum. The residue was purified by column chromatography on silica gel (petroleum ether/EtOAc=2/1) to give 2.65 g of 2-Chloromethyl-5,8-dimethyl-[1,2,4]triazolo[1,5-a]pyridine in 82% yield. LC-MS (MH+): m/z=195.9. tR (minutes)=1.14

reactant | 3,6-Dimethyl-2-pyridinamine | 16.4 mmol, 2.00 g | CC=1C(=NC(=CC1)C)N | C7H10N2
reactant | hydroxylamine 2,4,6-Trimethyl-benzenesulfonate | 19.6 mmol, 4.22 g | NO.CC1=C(C(=CC(=C1)C)C)S(=O)(=O)[O-]
reactant | DBU | 22.9 mmol, 3.43 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | chloroacetic acid methyl ester | 16.4 mmol, 1.44 mL | COC(CCl)=O | C3H5ClO2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-Chloromethyl-5,8-dimethyl-[1,2,4]triazolo[1,5-a]pyridine | 2.65 g, 82% yield | ClCC1=NN2C(C(=CC=C2C)C)=N1 | C9H10ClN3
